### PR TITLE
Corres lemmas rename

### PR DESCRIPTION
**Pull request by VictorPhan**
Task: [VER-1386](https://sel4.atlassian.net/browse/VER-1386)
Renaming corres lemmas for consistency.
Each rename is in its separate commit but I will squash this when this PR is ready to be merged.
Will also need to remove my little bash script commit when done.

Weird stuff:
* Some `corres` lemmas mingle with `AutoCorres`, so I'll need to figure out what to do with those
* Some `corres` lemmas use helper lemmas which I will need to update later as I'm currently only going through patterns that match with `*corres:*`
* Uncovering a lot of weird edge cases that can help refine the style guide in `l4v/docs/conventions.md`

### CODE REVIEW

**Comment by VictorPhan** [comment]
Have finished most of the arch-specific `corres` lemmas. Close to finishing, once build tests pass I'll put this up for review and iron out the weird cases.

**Comment by VictorPhan** [comment]
That was a lie, I still have a tonne more `corres` rules to go through.

**Comment by VictorPhan** [comment]
Okay, have handled all the `corres` lemmas that was in `ARM_HYP`, which means this should cover _most_ of the `corres` lemmas in other arches too, so I'll go to the other ones and iron out the final cases and I also have a list of weird `corres` rules to which the general guidelines don't quite cover.

**Comment by VictorPhan** [comment]
That's now everything except for a couple of weird cases that I've marked to go over tomorrow

File: spec/capDL/Endpoint_D.thy [hunk 1]
```diff
@@ -355,7 +355,7 @@ where
             else
               return ()
         | Some tcb_id_receiver \<Rightarrow> do
-             \<comment> \<open>liftM instead of bind+return avoids early unfolding in send_ipc_corres\<close>
+             \<comment> \<open>liftM instead of bind+return avoids early unfolding in sendIPC_corres\<close>
```
Comment (mbrcknl) [inline spec/capDL/Endpoint_D.thy:358]: This is probably a mistake, since the capDL spec goes upward from the abstract spec, not downward.

File: tools/autocorres/CorresXF.thy [hunk 2]
```diff
@@ -686,7 +686,7 @@ proof -
 qed
 
 (* Merge of lemmas ccorresE and corresXF. *)
-definition "ac_corres st check_termination \<Gamma> rx G \<equiv>
+definition "cancelSignal_corres st check_termination \<Gamma> rx G \<equiv>
```
Comment (mbrcknl) [inline tools/autocorres/CorresXF.thy:689]: This is definitely a mistake. `ac_corres` is a predicate that is similar in nature to `ccorres_underlying`. It's part of the refinement stack defined by AutoCorres. It's definitely not a `_corres` lemma. :-)

This change and changes to all the lemmas and comments that refer to it will need to be reverted.

**Review by mbrcknl — CHANGES_REQUESTED** [review]
This is huge! Impressive, TBH.

So far, I've got through everything except `refine/{RISCV64,X64}`. I might leave those to someone else. :-)

Some comments:
- Quite a few abbreviations have been expanded. For example, `gct_corres` -> `getCurrentThread_corres`. I actually like this, but just want to check with everyone that this is what we want to do.
- Some lemmas for functions that run in the user context have been named like `asUser_foo_corres` (for a hypothetical function `foo`). Again, I like this, but want to check that this is what is intended.
- The `ac_corres` -> `cancelSignal_corres` change definitely needs to be reverted.

Otherwise, this is great! I'm going to select "Request changes" to make sure this isn't accidentally merged before the `ac_corres` change is reverted. But once that's fixed, I'll approve.

File: tools/autocorres/CorresXF.thy (hunk 2 above)
Comment (VictorPhan) [reply tools/autocorres/CorresXF.thy:689]: Will remove the `ac_corres` commit, thanks!

File: lib/test/Corres_Test.thy [hunk 3]
```diff
@@ -178,15 +178,15 @@ context begin interpretation Arch .
 
 
 lemmas load_hw_asid_corres_args[corres] =
-  load_hw_asid_corres[@lift_corres_args]
+  loadHWASID_corres[@lift_corres_args]
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply lib/test/Corres_Test.thy:181]: Yeah, speaking of only `foo_corres` lemmas, a lot of those use helper lemmas which are named `foo_corres_helper`, which is something I'll have to get around to as well, probably in a separate pull request.

File: spec/capDL/Endpoint_D.thy (hunk 1 above)
Comment (VictorPhan) [reply spec/capDL/Endpoint_D.thy:358]: Alright, will re-edit the `send_ipc_corres` commit to remove the changes in the `capDL` file.

Comment (VictorPhan) [reply spec/capDL/Endpoint_D.thy:358]: Does that mean we have a refinement from capDL to abstract with a lemma named `send_ipc_corres`?

File: tools/autocorres/CorresXF.thy (hunk 2 above)
Comment (VictorPhan) [reply tools/autocorres/CorresXF.thy:689]: I just checked it carefully, is it only the use of `ac_corres` in `autocorres` that's wrong? The refine rename looks fine to me, but the crefine rename looks a bit weird too.

File: spec/capDL/Endpoint_D.thy (hunk 1 above)
Comment (mbrcknl) [reply spec/capDL/Endpoint_D.thy:358]: > Does that mean we have a refinement from capDL to abstract with a lemma named `send_ipc_corres`?

It appears to be called [`send_sync_ipc_corres`](https://github.com/seL4/l4v/blob/e019b90d8a80bfd65e0bfb51270b2d7edae7b761/proof/drefine/Ipc_DR.thy#L2632-L2640) :-)

I'd say that's out of scope for this PR, so perhaps just revert this change.

Comment (VictorPhan) [reply spec/capDL/Endpoint_D.thy:358]: Do you mean the change to the `capDL` file or the whole renaming for the `send_ipc_corres` commit?

**Comment by VictorPhan** [comment]
If anyone has a little time to spare, you can just review over the commit names since my script applied the rename to the `/l4v` directory and generated the commit message.

File: spec/capDL/Endpoint_D.thy (hunk 1 above)
Comment (mbrcknl) [reply spec/capDL/Endpoint_D.thy:358]: I mean that you should:
- revert this one-line change in `spec/capDL/Endpoint_D.thy`
- keep the rest of the renaming of `send_ipc_corres` to `sendIPC_corres`.

The problem is that `send_ipc_corres` in this comment is referring to a lemma in DRefine, *not* the lemma you are renaming in Refine. As it happens, the DRefine lemma to which this comment refers is actually called `send_sync_ipc_corres`, so the comment is wrong, but fixing that is out of scope for this PR.

File: tools/autocorres/CorresXF.thy (hunk 2 above)
Comment (mbrcknl) [reply tools/autocorres/CorresXF.thy:689]: Yes, you're right. I had missed that there was a `lemma ac_corres` in each `proof/refine/*/IpcCancel_R.thy` that you've renamed to `lemma cancelSignal_corres`. You'll want to keep that part of the change.

The best way to handle this would be to:
- keep the part of the change that is in `proof/refine`.
- revert the parts of the change in `tools` and `proof/crefine`.

There might be a few more tweaks you need to make, but I think the above will be a good starting point. The main thing is to ensure that the four cases of `lemma ac_corres` in `proof/refine/*/IpcCancel_R.thy` have been renamed, but that the `definition ac_corres` in `tools/autocorres/CorresXF.thy` has *not* been renamed. The typechecker will then force you to get everything else right.

File: proof/drefine/Arch_DR.thy [hunk 4]
```diff
@@ -1440,15 +1440,15 @@ lemma invoke_page_directory_corres:
   apply (clarsimp simp: perform_page_directory_invocation_def)
   done
 
-lemma pte_check_if_mapped_corres:
+lemma pteCheckIfMapped_corres:
   "dcorres dc \<top> \<top> (return a) (pte_check_if_mapped pte)"
```
Comment (mbrcknl) [inline proof/drefine/Arch_DR.thy:1444]: Whoops, I didn't catch these last time. This is similar to the `spec/capDL` issue. DRefine goes up from the abstract spec, so we're refining from something even more abstract down to `pte_check_if_mapped` from the abstract spec. Here, the even-more-abstract function is just `return a`, since the DSpec throws away quite a lot of information, including whether pages are mapped. So there's definitely no `pteCheckIfMapped` function involved here.

You should look through all the changes you've made in `proof/drefine`. I think you'll find that you just need to revert everything in this directory.

**Review by mbrcknl — CHANGES_REQUESTED** [review]
This issues from the last round are fixed. Thanks for that!

However I discovered another batch in `proof/drefine`. See my comment in `proof/drefine/Arch_DR.thy` for an example, but note that there are quite a few other cases. I suspect you'll end up reverting all your changes in `proof/drefine`.

File: proof/drefine/Arch_DR.thy (hunk 4 above)
Comment (VictorPhan) [reply proof/drefine/Arch_DR.thy]: `proof/drefine` changes rolled back! Will need to remember to remove commit message when squashing for the merge to `master`

**Review by mbrcknl — APPROVED** [review]
I think this looks good now, so I'll approve assuming you've done a full test run. However, given that I haven't looked at `proof/refine/{RISCV64,X64}`, and given the high chance that I missed something, it would be good to try to find someone else to look over this.

Also, what were your plans for the commit history? Do you intend to keep individual commits for each rename? Or squash everything into one commit? I have a slight preference for lots of commits, but in that case I guess it would be nice to do the drefine reversion in the individual commits, so it looks like it never happened.

Again, thanks for this massive effort!

**Comment by VictorPhan** [comment]
> I think this looks good now, so I'll approve assuming you've done a full test run. However, given that I haven't looked at `proof/refine/{RISCV64,X64}`, and given the high chance that I missed something, it would be good to try to find someone else to look over this.
> 
> Also, what were your plans for the commit history? Do you intend to keep individual commits for each rename? Or squash everything into one commit? I have a slight preference for lots of commits, but in that case I guess it would be nice to do the drefine reversion in the individual commits, so it looks like it never happened.
> 
> Again, thanks for this massive effort!

I was thinking about squashing it all into one commit at first since I thought having 200+ commits on master for this one task might be a bit overkill, but I do see the advantages of separating all the renames into different commits.
I'm willing to go with the separate commits, but we should get some more opinions on this.

**Comment by mbrcknl** [comment]
> I'm willing to go with the separate commits, but we should get some more opinions on this.

I might have changed my mind on this. :-)

I guess the main reason you might want to keep separate commits is to make it easier to revert part of this PR if it turns out we missed something in the review. But perhaps that's not a big deal. Most of the work of this PR is figuring out what changes to make, and then the changes themselves are rather mechanical. I expect the same would be true if we need a partial reversion, so it might not matter if the commits are squashed.

So I now have a slight preference for squashing. In any case, I agree some more opinions would be useful. @lsf37 @Xaphiosis @mktnk3?

**Comment by lsf37** [comment]
> > I'm willing to go with the separate commits, but we should get some more opinions on this.
> 
> I might have changed my mind on this. :-)
> 
> I guess the main reason you might want to keep separate commits is to make it easier to revert part of this PR if it turns out we missed something in the review. But perhaps that's not a big deal. Most of the work of this PR is figuring out what changes to make, and then the changes themselves are rather mechanical. I expect the same would be true if we need a partial reversion, so it might not matter if the commits are squashed.
> 
> So I now have a slight preference for squashing. In any case, I agree some more opinions would be useful. @lsf37 @Xaphiosis @mktnk3?

I'm easy either way. 200 commits are a lot, so slight preference for squash, but I can see upsides to small commits as well.

**Comment by VictorPhan** [comment]
The 22 commits I've just added are my attempts are renaming some of the cases where it's not as obvious as copying the concrete function name, so these will benefit from a more careful review. I have about 35 cases left that I'll have to ask the team for a consensus.

**Review by VictorPhan — COMMENTED** [review]
test comment 1

**Comment by VictorPhan** [comment]
The last [commit](https://github.com/seL4/l4v/pull/219/commits/7891609c104c5d14c970b3c9a3462b5a799dac2e) has the last few cases that I haven't renamed yet because I'm unsure and want to gather everyone's opinion on. We can start a comment thread for each case to discuss it, and I'll comment in corres lemmas that I reference.

File: proof/refine/ARM_HYP/VSpace_R.thy [hunk 5]
```diff
@@ -364,6 +364,7 @@ lemma invalidateASID_corres:
   apply simp
   done
 
+(* modified version of invalidateASID_corres with existential, so maybe invalidateASID_ext_corres? *)
```
Comment (VictorPhan) [inline proof/refine/ARM_HYP/VSpace_R.thy:367]:
```
lemma invalidateASID_corres:
  "corres dc
          (valid_asid_map and valid_vspace_objs
               and pspace_aligned and pspace_distinct
               and vspace_at_asid a pd and pd_at_uniq a pd
               and K (a \<noteq> 0 \<and> a \<le> mask asid_bits))
          (pspace_aligned' and pspace_distinct' and no_0_obj')
     (invalidate_asid a) (invalidateASID a)"
  (is "corres dc ?P ?P' ?f ?f'")
```

File: proof/refine/X64/Arch_R.thy [hunk 6]
```diff
@@ -956,6 +958,7 @@ lemma ucast_ucast_ioport_max [simp]:
   "UCAST(16 \<rightarrow> 32) (UCAST(64 \<rightarrow> 16) y) \<le> 0xFFFF"
   by word_bitwise
 
+(* there already exists decodeX64PortInvocation_corres, which seems to be more specific *)
```
Comment (VictorPhan) [inline proof/refine/X64/Arch_R.thy:961]:
```
lemma decodeX64PortInvocation_corres:
  "\<lbrakk>list_all2 cap_relation caps caps'; cap = arch_cap.IOPortControlCap; acap_relation cap cap'\<rbrakk> \<Longrightarrow>
   corres (ser \<oplus> archinv_relation)
     (invs and (\<lambda>s. \<forall>cp \<in> set caps. s \<turnstile> cp))
     (invs' and (\<lambda>s. \<forall>cp \<in> set caps'. s \<turnstile>' cp))
     (decode_ioport_control_invocation label args slot cap caps)
     (decodeX64PortInvocation label args (cte_map slot) cap' caps')"
```

File: proof/refine/X64/Arch_R.thy [hunk 7]
```diff
@@ -1334,6 +1337,8 @@ lemma port_out_corres[@lift_corres_args, corres]:
      apply wpsimp+
   done
 
+(* difference to performX64PortInvocation_corres? one is InvokeIOPortControl, the other is
```
Comment (VictorPhan) [inline proof/refine/X64/Arch_R.thy:1340]:
```
lemma performX64PortInvocation_corres:
  "\<lbrakk>archinv_relation ai ai'; ai = arch_invocation.InvokeIOPortControl x\<rbrakk> \<Longrightarrow>
   corres (dc \<oplus> (=))
      (einvs and ct_active and valid_arch_inv ai)
      (invs' and ct_active' and valid_arch_inv' ai')
      (liftE (do perform_ioport_control_invocation x; return [] od))
      (performX64PortInvocation ai')"
```

File: proof/refine/X64/Arch_R.thy [hunk 8]
```diff
@@ -1334,6 +1337,8 @@ lemma port_out_corres[@lift_corres_args, corres]:
      apply wpsimp+
   done
 
+(* difference to performX64PortInvocation_corres? one is InvokeIOPortControl, the other is 
+   InvokeIOPort *)
```
Comment (VictorPhan) [inline proof/refine/X64/Arch_R.thy:1341]:
```
lemma performX64PortInvocation_corres:
  "\<lbrakk>archinv_relation ai ai'; ai = arch_invocation.InvokeIOPortControl x\<rbrakk> \<Longrightarrow>
   corres (dc \<oplus> (=))
      (einvs and ct_active and valid_arch_inv ai)
      (invs' and ct_active' and valid_arch_inv' ai')
      (liftE (do perform_ioport_control_invocation x; return [] od))
      (performX64PortInvocation ai')"
```

File: proof/refine/X64/CSpace1_R.thy [hunk 9]
```diff
@@ -314,6 +314,7 @@ lemma getCTE_wp':
   apply clarsimp
   done
 
+(* getSlotCap_TCB_corres, also see get_tcb_cap_corres which looks similar *)
```
Comment (VictorPhan) [inline proof/refine/X64/CSpace1_R.thy:317]:
```
lemma get_tcb_cap_corres:
  "tcb_cap_cases ref = Some (getF, v) \<Longrightarrow>
   corres cap_relation (tcb_at t and valid_objs) (tcb_at' t and pspace_aligned' and pspace_distinct')
                       (liftM getF (gets_the (get_tcb t)))
                       (getSlotCap (cte_map (t, ref)))"
```

File: proof/refine/X64/CSpace_R.thy [hunk 10]
```diff
@@ -3566,6 +3566,8 @@ lemma maskCapRightsUntyped [simp]:
 
 declare if_option_Some[simp]
 
+(* difference to lookupCap_corres? these look the same but lookup_cap_corres has an assumption
+   whereas the other substitutes the assumption into the goal *)
```
Comment (VictorPhan) [inline proof/refine/X64/CSpace_R.thy:3570]:
```
lemma lookupCap_corres:
 "corres (lfr \<oplus> cap_relation)
         (valid_objs and pspace_aligned and tcb_at t)
         (valid_objs' and pspace_aligned' and pspace_distinct' and tcb_at' t)
         (lookup_cap t (to_bl ref)) (lookupCap t ref)"
```

File: proof/refine/X64/Finalise_R.thy [hunk 11]
```diff
@@ -3731,6 +3731,7 @@ lemma fast_finaliseCap_corres:
                  dest!: invs_valid_objs' obj_at_valid_objs' )
   done
 
+(* similar to cteDeleteOne_corres, except cteDeleteOne_corres exists as a locale assumption*)
```
Comment (VictorPhan) [inline proof/refine/X64/Finalise_R.thy:3734]:
```
locale delete_one = delete_one_conc + delete_one_abs +
  assumes cteDeleteOne_corres:
    "corres dc (einvs and cte_wp_at can_fast_finalise ptr)
               (invs' and cte_at' (cte_map ptr))
          (cap_delete_one ptr) (cteDeleteOne (cte_map ptr))"
```

File: proof/refine/X64/Interrupt_R.thy [hunk 12]
```diff
@@ -137,6 +137,7 @@ lemma decode_irq_handler_valid'[wp]:
   apply clarsimp
   done
 
+(* difference to isIRQActive_corres? isIRQActive seems to be more of a specific case *)
```
Comment (VictorPhan) [inline proof/refine/X64/Interrupt_R.thy:140]:
```
lemma isIRQActive_corres:
  "corres (=) \<top> \<top> (is_irq_active irqVTimerEvent) (isIRQActive irqVTimerEvent)"
```

Comment (VictorPhan) [reply proof/refine/X64/Interrupt_R.thy:140]: `isIRQActive_corres` only appears in `proof/refine/ARM_HYP/VSpace_R.thy`

File: proof/refine/X64/Ipc_R.thy [hunk 13]
```diff
@@ -1876,6 +1877,7 @@ lemma sanitise_register_corres:
   by (auto simp: sanitise_or_flags_def sanitise_and_flags_def user_vtop_def mask_def
                     sanitiseOrFlags_def sanitiseAndFlags_def)
 
+(* handleFaultReply_corres_helper? *)
```
Comment (VictorPhan) [inline proof/refine/X64/Ipc_R.thy:1880]: The lemma is used here:
```
lemma handleFaultReply_corres:
  "ft' = fault_map ft \<Longrightarrow>
   corres (=) (tcb_at t) (tcb_at' t)
     (handle_fault_reply ft t label msg)
     (handleFaultReply ft' t label msg)"
  apply (cases ft)
     apply(simp_all add: handleFaultReply_def
                         handle_arch_fault_reply_def handleArchFaultReply_def
                         syscallMessage_def exceptionMessage_def
                    split: arch_fault.split)
   by (rule handle_fault_reply_registers_corres)+
```

File: proof/refine/ARM_HYP/TcbAcc_R.thy [hunk 14]
```diff
@@ -343,6 +343,7 @@ lemma setObject_update_TCB_corres:
                         in_magnitude_check)
   done
 
+(* see get_tcb_corres and corres_get_tcb *)
```
Comment (VictorPhan) [inline proof/refine/ARM_HYP/TcbAcc_R.thy:346]:
```
lemma getObject_TCB_corres:
  "corres tcb_relation (tcb_at t) (tcb_at' t)
          (gets_the (get_tcb t)) (getObject t)"

lemma get_tcb_corres:
  "corres tcb_relation (tcb_at t) (tcb_at' t) (gets_the (get_tcb t)) (getObject t)"

lemma corres_get_tcb:
  "corres (tcb_relation \<circ> the) (tcb_at t) (tcb_at' t) (gets (get_tcb t)) (getObject t)"
```

File: proof/refine/ARM_HYP/TcbAcc_R.thy [hunk 15]
```diff
@@ -1786,6 +1787,7 @@ lemma setQueue_nosch[wp]:
 lemma gq_wp[wp]: "\<lbrace>\<lambda>s. Q (ksReadyQueues s (d, p)) s\<rbrace> getQueue d p \<lbrace>Q\<rbrace>"
   by (simp add: getQueue_def, wp)
 
+(* see getObject_TCB_corres and corres_get_tcb *)
```
Comment (VictorPhan) [inline proof/refine/ARM_HYP/TcbAcc_R.thy:1790]: lemma getObject_TCB_corres:
  "corres tcb_relation (tcb_at t) (tcb_at' t)
          (gets_the (get_tcb t)) (getObject t)"

lemma get_tcb_corres:
  "corres tcb_relation (tcb_at t) (tcb_at' t) (gets_the (get_tcb t)) (getObject t)"

lemma corres_get_tcb:
  "corres (tcb_relation \<circ> the) (tcb_at t) (tcb_at' t) (gets (get_tcb t)) (getObject t)"

File: proof/refine/X64/KHeap_R.thy [hunk 16]
```diff
@@ -101,6 +101,7 @@ lemmas page_table_at_obj_at'
   = page_table_at'_def[unfolded typ_at_to_obj_at_arches]
 
 
+(* see get_tcb_corres and getObject_TCB_corres *)
```
Comment (VictorPhan) [inline proof/refine/X64/KHeap_R.thy:104]:
```
lemma getObject_TCB_corres:
  "corres tcb_relation (tcb_at t) (tcb_at' t)
          (gets_the (get_tcb t)) (getObject t)"

lemma get_tcb_corres:
  "corres tcb_relation (tcb_at t) (tcb_at' t) (gets_the (get_tcb t)) (getObject t)"

lemma corres_get_tcb:
  "corres (tcb_relation \<circ> the) (tcb_at t) (tcb_at' t) (gets (get_tcb t)) (getObject t)"
```

File: proof/refine/X64/Schedule_R.thy [hunk 17]
```diff
@@ -1485,6 +1485,7 @@ lemma gts_exs_valid[wp]:
   apply (erule get_tcb_at)
   done
 
+(* guarded_SwitchToThread_corres? also what's the difference to switchToThread_corres? *)
```
Comment (VictorPhan) [inline proof/refine/X64/Schedule_R.thy:1488]:
```
lemma switchToThread_corres:
  "corres dc (valid_arch_state and valid_objs and valid_asid_map
                and valid_vspace_objs and pspace_aligned and pspace_distinct
                and valid_vs_lookup and valid_global_objs
                and unique_table_refs o caps_of_state
                and st_tcb_at runnable t and valid_etcbs)
             (valid_arch_state' and valid_pspace' and Invariants_H.valid_queues
                and st_tcb_at' runnable' t and cur_tcb')
             (switch_to_thread t) (switchToThread t)"
```

File: proof/refine/X64/Schedule_R.thy [hunk 18]
```diff
@@ -1549,6 +1550,8 @@ lemma corres_gets_queues_getReadyQueuesL1Bitmap:
   unfolding state_relation_def valid_queues_def getReadyQueuesL1Bitmap_def
   by (clarsimp simp: bitmapL1_zero_ksReadyQueues ready_queues_relation_def)
 
+(* switchToThread_chooseThread_fragment_corres? or chooseThread_corres_helper
+   (this lemmas is used for chooseThread_corres) *)
```
Comment (VictorPhan) [inline proof/refine/X64/Schedule_R.thy:1554]:
```
lemma chooseThread_corres:
  "corres dc (invs and valid_sched) (invs_no_cicd')
     choose_thread chooseThread" (is "corres _ ?PREI ?PREH _ _")
```

File: proof/refine/X64/TcbAcc_R.thy [hunk 19]
```diff
@@ -2119,6 +2120,7 @@ lemma thread_get_test: "do cur_ts \<leftarrow> get_thread_state cur; g (test cur
   apply (simp add: get_thread_state_def thread_get_def)
   done
 
+(* difference to isRunnable_corres? abstract sides are different *)
```
Comment (VictorPhan) [inline proof/refine/X64/TcbAcc_R.thy:2123]:
```
lemma thread_get_isRunnable_corres: "corres (=) (tcb_at t) (tcb_at' t) (thread_get (\<lambda>tcb. runnable (tcb_state tcb)) t) (isRunnable t)"
```

File: proof/refine/X64/TcbAcc_R.thy [hunk 20]
```diff
@@ -3320,6 +3322,7 @@ lemma storeWordUser_corres:
   apply (simp add: valid_ipc_buffer_ptr'_def)
   done
 
+(* difference to loadWordUser_corres? *)
```
Comment (VictorPhan) [inline proof/refine/X64/TcbAcc_R.thy:3325]:
```
lemma loadWordUser_corres:
  assumes y: "y < unat max_ipc_words"
  shows "corres (=) \<top> (valid_ipc_buffer_ptr' a) (load_word_offs a y) (loadWordUser (a + of_nat y * 4))"
```

File: proof/refine/X64/TcbAcc_R.thy [hunk 21]
```diff
@@ -3616,6 +3619,7 @@ lemma cte_at_tcb_at_32':
   apply fastforce
   done
 
+(* see getSlotCap_tcb_corres *)
```
Comment (VictorPhan) [inline proof/refine/X64/TcbAcc_R.thy:3622]:
```
lemma getSlotCap_tcb_corres:
  "corres (\<lambda>t c. cap_relation (tcb_ctable t) c)
          (tcb_at t and valid_objs and pspace_aligned)
          (pspace_distinct' and pspace_aligned')
          (gets_the (get_tcb t))
          (getSlotCap t)"
```

File: proof/refine/X64/Arch_R.thy [hunk 22]
```diff
@@ -426,6 +426,7 @@ where
    | InvokeIOPort i \<Rightarrow> \<top>
    | InvokeIOPortControl ic \<Rightarrow> ioport_control_inv_valid' ic"
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Arch_R.thy:429]: doesn't look like a `corres` lemma

File: proof/refine/X64/Arch_R.thy [hunk 23]
```diff
@@ -436,6 +437,7 @@ lemma mask_vmrights_corres:
                      vm_kernel_only_def vm_read_only_def
                split: bool.splits)
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Arch_R.thy:440]: doesn't look like a `corres` lemma

File: proof/refine/X64/CNodeInv_R.thy [hunk 24]
```diff
@@ -7080,6 +7080,7 @@ lemmas finaliseSlot_typ_ats[wp] = typ_at_lifts[OF finaliseSlot_typ_at']
 lemmas rec_del_valid_list_irq_state_independent[wp] =
   rec_del_preservation[OF cap_swap_for_delete_valid_list set_cap_valid_list empty_slot_valid_list finalise_cap_valid_list preemption_point_valid_list]
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/CNodeInv_R.thy:7083]: I do see a `rec_del` on the concrete side but I'm not sure what the `C` after that is, though this is a `spec_corres` so I'm not sure if the scope of this rename touches this.

File: proof/refine/X64/CSpace1_R.thy [hunk 25]
```diff
@@ -1752,6 +1753,7 @@ qed
 definition pspace_relations where
   "pspace_relations ekh kh kh' \<equiv> pspace_relation kh kh' \<and> ekheap_relation ekh kh'"
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/CSpace1_R.thy:1756]: This is here because we should update it with what we rename `set_cap_not_quite_corres` to

File: proof/refine/X64/CSpace1_R.thy [hunk 26]
```diff
@@ -1815,6 +1817,7 @@ lemma setCTE_pspace_only:
   apply (rule exI, rule refl)
   done
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/CSpace1_R.thy:1820]: It's not quite a `corres`?

File: proof/refine/X64/CSpace1_R.thy [hunk 27]
```diff
@@ -1950,6 +1953,7 @@ lemma pspace_relation_cte_wp_atI:
   apply assumption
   done
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/CSpace1_R.thy:1956]: doesn't look like a `corres` lemma

File: proof/refine/X64/CSpace_R.thy [hunk 28]
```diff
@@ -3958,6 +3960,7 @@ lemma setCTE_work_units_completed[wp]:
   apply (wp updateObject_cte_inv crunch_wps | simp)+
   done
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/CSpace_R.thy:3963]: unsure what to make of the concrete side

File: proof/refine/X64/Finalise_R.thy [hunk 29]
```diff
@@ -3948,6 +3949,7 @@ definition thread_set_all :: "(Structures_A.tcb \<Rightarrow> Structures_A.tcb)
         set_thread_all tptr (f tcb) (g etcb)
      od"
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Finalise_R.thy:3952]: what should `something` be in `setObject_something_corres` here

File: proof/refine/X64/Finalise_R.thy [hunk 30]
```diff
@@ -4043,6 +4045,7 @@ lemma tcb_update_all_corres':
   apply simp
   done
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Finalise_R.thy:4048]: `getObject_something_corres`

File: proof/refine/X64/Ipc_R.thy [hunk 31]
```diff
@@ -1862,6 +1862,7 @@ crunch nosch[wp]: doIPCTransfer "\<lambda>s. P (ksSchedulerAction s)"
   (wp: hoare_drop_imps hoare_vcg_split_case_option mapM_wp'
    simp: split_def zipWithM_x_mapM)
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Ipc_R.thy:1865]: don't know what this is

File: proof/refine/X64/Ipc_R.thy [hunk 32]
```diff
@@ -3480,6 +3482,7 @@ lemma sendFaultIPC_corres:
   apply fastforce
   done
 
+(* maybe return_noop_corres? *)
```
Comment (VictorPhan) [inline proof/refine/X64/Ipc_R.thy:3485]: `return_noop_corres`

File: proof/refine/X64/Retype_R.thy [hunk 33]
```diff
@@ -5226,6 +5226,7 @@ lemma corres_retype_update_gsI:
   using corres_retype' [OF not_zero aligned obj_bits_api check usv ko orr cover]
   by (simp add: f)
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Retype_R.thy:5229]: unsure what to make of the concrete body

File: proof/refine/X64/Schedule_R.thy [hunk 34]
```diff
@@ -1856,6 +1859,7 @@ lemma scheduleChooseNewThread_corres:
 
 crunch static_inv[wp]: guarded_switch_to "\<lambda>_. P"
 
+(* what is ethread_get_when? *)
```
Comment (VictorPhan) [inline proof/refine/X64/Schedule_R.thy:1862]: what  is `ethread_get_when`?

File: proof/refine/X64/Syscall_R.thy [hunk 35]
```diff
@@ -29,6 +29,7 @@ One can clearly see this is simulating some kind of monadic Maybe sequence
 trying to identify all possible errors before actually performing the syscall.
 *)
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/Syscall_R.thy:32]: This is a lemma bundle, not sure what they do

File: proof/refine/X64/TcbAcc_R.thy [hunk 36]
```diff
@@ -1824,6 +1824,7 @@ lemma corres_get_etcb:
   done
 
 
+(* what is ethread_get? *)
```
Comment (VictorPhan) [inline proof/refine/X64/TcbAcc_R.thy:1827]: what is `ethread_get`?

File: proof/refine/X64/TcbAcc_R.thy [hunk 37]
```diff
@@ -4657,6 +4661,7 @@ where
   "non_exst_same' (KOTCB tcb) (KOTCB tcb') = non_exst_same tcb tcb'" |
   "non_exst_same' _ _ = True"
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/TcbAcc_R.thy:4664]: what is `set_eobject`?

File: proof/refine/X64/TcbAcc_R.thy [hunk 38]
```diff
@@ -4702,6 +4707,7 @@ lemma set_eobject_corres':
   apply (clarsimp simp: other_obj_relation_def etcb_relation_def is_other_obj_relation_type split: Structures_A.kernel_object.splits Structures_H.kernel_object.splits X64_A.arch_kernel_obj.splits)
   done
 
+(* unsure *)
```
Comment (VictorPhan) [inline proof/refine/X64/TcbAcc_R.thy:4710]: what is `set_eobject`?

File: proof/refine/X64/VSpace_R.thy [hunk 39]
```diff
@@ -1018,6 +1018,7 @@ definition
                                  and valid_cap' (ArchObjectCap cap)
                                  and K (isPageTableCap cap)"
 
+(* unsure because of body *)
```
Comment (VictorPhan) [inline proof/refine/X64/VSpace_R.thy:1021]: maybe `clear_PT_corres`?

File: proof/refine/X64/VSpace_R.thy [hunk 40]
```diff
@@ -1050,6 +1051,7 @@ lemma clear_page_table_corres:
   apply simp
   done
 
+(* unsure because of body *)
```
Comment (VictorPhan) [inline proof/refine/X64/VSpace_R.thy:1054]: maybe `clear_PD_corres`?

File: proof/refine/X64/VSpace_R.thy [hunk 41]
```diff
@@ -1082,6 +1084,7 @@ lemma clear_page_directory_corres:
...
```
Comment (VictorPhan) [inline proof/refine/X64/VSpace_R.thy:1087]: maybe `clear_PDPT_corres`?

File: proof/refine/ARM/IpcCancel_R.thy [hunk 42]
```diff
@@ -155,7 +155,7 @@ lemma invs_weak_sch_act_wf[elim!]:
 crunch tcb_at[wp]: set_endpoint "tcb_at t"
 crunch tcb_at'[wp]: setEndpoint "tcb_at' t"
 
-lemma blocked_cancel_ipc_corres:
+lemma blocked_cancelIPC_corres:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:158]: what I said in the mattermost verification channel was actually `blockedCancelIPC_corres`, but I realise that this is what MCS has, and in master something similar is called `blockedIPCCancel`. So, maybe this one should be `blockedIPCCancel_corres`?? What’s in MCS is quite new, in fact, added by Ed last year. I am not sure if we like such inconsistency, but maybe we can just live with it for this case inside `cancelIPC`, given that the function for the reply case will definitely have different names anyway.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 43]
```diff
@@ -504,12 +504,12 @@ locale delete_one_conc = delete_one_conc_pre +
...
 
 locale delete_one = delete_one_conc + delete_one_abs +
-  assumes delete_one_corres:
+  assumes cteDeleteOne_corres:
     "corres dc (einvs and cte_wp_at can_fast_finalise ptr)
                (invs' and cte_at' (cte_map ptr))
           (cap_delete_one ptr) (cteDeleteOne (cte_map ptr))"
 
-lemma (in delete_one) reply_cancel_ipc_corres:
+lemma (in delete_one) cancelIPC_ReplyCap_corres:
```
Comment (mktnk3) [inline proof/refine/ARM/IpcCancel_R.thy:512]: this should be `replyIPCCancel_corres`.  The concrete side is the RHS of the let binding for `replyIPCCancel`  inside `cancelIPC`.

(it would be nicer to call it `replyCancelIPC`, probably.)

File: proof/refine/ARM/Ipc_R.thy [hunk 44]
```diff
@@ -243,7 +243,7 @@ lemma corres_set_extra_badge:
           (\<lambda>_. msg_max_length + 2 + n < unat max_ipc_words))
          (set_extra_badge buffer b n) (setExtraBadge buffer b' n)"
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:244]: It looks like this one has been missed. It’s currently called `corres_set_extra_badge`.

File: proof/refine/ARM/Ipc_R.thy [hunk 45]
```diff
@@ -1535,11 +1535,11 @@ lemma makeFaultMessage_inv[wp]:
   done
 
 lemmas threadget_fault_corres =
-          threadget_corres [where r = fault_rel_optionation
+          threadGet_corres [where r = fault_rel_optionation
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:1538]: In the same spirit as `threadget_corres` -> `threadGet_corres`, this one would be `threadGet_tcbFault_corres`, maybe?

Comment (VictorPhan) [reply proof/refine/ARM/Ipc_R.thy:1538]: Good idea, wasn't included because I was only searching for the `corres:` pattern

File: proof/refine/ARM/Ipc_R.thy (hunk 44 above)
Comment (VictorPhan) [reply proof/refine/ARM/Ipc_R.thy:244]: Missed because only searched for `corres:`, but I'll include the change

File: proof/refine/ARM/IpcCancel_R.thy (hunk 43 above)
Comment (VictorPhan) [reply proof/refine/ARM/IpcCancel_R.thy:512]: I'm happy to change it to `replyCancelIPC`

File: proof/refine/ARM/Ipc_R.thy (hunk 45 above)
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:1538]: Ok, it sounds like you could do another pass to see if there are more cases that you couldn’t catch with the `corres:` pattern?

**Comment by MitchellBuckley** [comment]
Based heavily on this PR, a separate PR was merged to complete this task: https://github.com/seL4/l4v/pull/288.
